US06297258B1
To an ice cold solution of 1.75 g (7.78 mmol) of 4-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)but-2-ynoic acid in 100 mL of THF under N2 was added 0.942 g (9.33 mmol) of N-methylmorpholine followed by 0.852 g (6.22 mmol) of isobutyl chloroformate. After stirring in the cold for 30 min, a solution of 1.05 g (3.11 mmol) of 6-amino-4-[(3-bromophenyl)amino]-quinoline-3-carbonitrile in 8 mL of pyridine was added dropwise. After stirring in the cold for 5 h, the reaction was poured into ice water and satd NaHCO3 was added. The mixture was extracted with ethyl acetate and the extracts were dried and evaporated. Chromatography of the residue on silica gel (20% methanol in ethyl acetate) gave 0.590 g of 4-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)but-2-ynoic acid[4-(3-bromophenylamino)-3-cyanoquinol-6-yl]amide as a brown foam: mass spectrum (electrospray, m/e): M+H 546.0, 548.1.

reactant | 4-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)but-2-ynoic acid | 7.78 mmol, 1.75 g | O1CCOC12CCN(CC2)CC#CC(=O)O | C11H15NO4
reactant | N-methylmorpholine | 9.33 mmol, 0.942 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 6.22 mmol, 0.852 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-bromophenyl)amino]-quinoline-3-carbonitrile | 3.11 mmol, 1.05 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 4-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)but-2-ynoic acid[4-(3-bromophenylamino)-3-cyanoquinol-6-yl]amide | 0.590 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C#CCN1CCC2(OCCO2)CC1)=O)C#N | C27H24BrN5O3
